Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Left diabetic foot ulcer
 
Major Surgical or Invasive Procedure:
Left partial hallux amputation

 
History of Present Illness:
___ with poorly controlled diabetes (complicated by retinopathy,
neuropathy, PAD, foot ulcer L hallux), CAD with ___ s/p 
CABG,
and narcotics agreement, presenting with 3 days subjective 
fever,
chills, increased pain in L great toe. Pt recently had ulcer
debrided by podiatry on ___, ulcer had healed to the size of a
pin, but within the span of a week enlarged to size of a tennis
ball. Presented to ___ urgent care in ___, found to be
febrile to ___, given Tylenol, sent to ER and was afebrile and
normotensive upon arrival, though sustained tachycardia to low
100s. Podiatry consulted in ER, wound to left medial hallux
probes to bone w/ high c/f osteomyelitis. X-rays show bony
erosion but no subcutaneous gas. Plan for IV antibiotics and
partial amputation of left great toe tomorrow (___). ___ n/v,
abd pain, diarrhea, excessive urination, orthostasis, dyspnea,
chest pain.

In the ED:

Initial vital signs were notable for: afebrile, tachycardia to
118, normotensive

Exam notable for:
PE: warm, slightly diaphoretic
CV: RRR, +S1/S2
Resp :lungs clear b/l
MSK: erythema involving L big toe, tracking along inferior base.
Tenderness tracking along path of great saphenous on L calf.
Limited dorsiflexion and plantar flexion. Limited ROM of ankle
and toe.
Mental Status: A&ox4
Lines & Drains: 20g L hand

Labs were notable for:

136  98  26*     AGap=20 
------------<266* 
4.2  18* 1.6*  

Lactate elevated: 2.4
Whites elevated: 23.4, neut predominance

Studies performed include:

Xray Foot Ap,Lat & Obl Left (prelim read): Re-demonstration of
ulceration along the medial distal aspect of the great toe and
erosion along the medial base of the distal phalanx of the great
toe perhaps slightly progressed in the interval. Findings again
remain concerning 
for osteomyelitis and MRI with contrast could be obtained for
further 
assessment. 

Patient was given:
Piperacillin-Tazobactam  
Vancomycin

Consults: Podiatry

Vitals on transfer: T100.5, BP 154/80, HR117, RR18, 99 Ra 

Upon arrival to the floor, patient resting comfortably in bed,
complains of chills, which resolve with blankets. Left foot
wrapped in gauze dressing, very tender up to midcalf.

REVIEW OF SYSTEMS:

Complete ROS obtained and is otherwise negative
 
Past Medical History:
-COPD
-CAD s/p BMS proximal-LAD ___, DES to mid LAD ___, DES to edge 
ISR of mid LAD DES and stenosis distal to stent ___, DES to OM1 
___, s/p 3 v CABG LIMA-LAD, SVG-OM1, 
___ 
-HFpEF
-Depression  
-DM  
-GERD  
-Hypertension
-Migraines
-Chronic shoulder pain on narcotics
-OSA
-Peripheral neuropathy
-Restless leg
 
Social History:
___
Family History:
Patient was ward of the ___, doesn't know full details of 
family history. Mother with possible alcohol abuse. Father 
deceased at ___ from Hodgkin's Disease per old records.
 
Physical Exam:
ADMISSION EXAM
==============
VITALS: T100.5, BP 154/80, HR117, RR18, 99 Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. MMM.
CARDIAC: RRR, no MRG
LUNGS: Normal WOB, CTA B/L
ABDOMEN: Soft, nontender to deep palpation, nondistended,
normoactive bowel sounds.
EXTREMITIES: left foot wrapped in gauze dressing, mildly
erythematous and very tender up to lower calf, RLE no edema,
thready DP pulses
NEUROLOGIC: Sensory and motor function grossly intact.

DISCHARGE EXAM
==============
VS: 98.5, 134 / 75,75, 18, 97% RA
General Appearance: Well-groomed, in NAD.
HEENT: Atraumatic, normocephalic. Sclera anicteric b/l. MMM. No
oropharyngeal lesions. No LAD.
Lungs: Equal chest rise. Good air movement. No increased work of
breathing. Decreased breath sounds in LLL. Rales in left base. 
No
wheezes or rhonchi.
CV: RRR. Normal S1, S2. No murmurs, gallops, or rubs. No carotid
bruits b/l. +2 carotid pulses b/l, +2 radial pulses b/l, +1
dorsalis pedis pulse on right, unable to palpate on left due to
surgical bandage.
Abdomen: Non-distended. Bowel sounds present. Soft, non-tender 
to
palpation throughout. 
Extremities: No clubbing or cyanosis. Left foot dressing clean
today. Erythema and edema around margin of surgical site is
improved today. Suture site is clean with no pus.
Skin: No rashes or lesions besides surgical site.
Neuro: A+O to person, place, and time. CN III-XII grossly 
intact.
 
Pertinent Results:
ADMISSION LABS
==============
___ 05:50PM BLOOD WBC-23.4* RBC-4.01 Hgb-13.3 Hct-37.9 
MCV-95 MCH-33.2* MCHC-35.1 RDW-12.0 RDWSD-42.1 Plt ___
___ 05:50PM BLOOD Neuts-81.4* Lymphs-10.5* Monos-7.1 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-19.09* AbsLymp-2.47 
AbsMono-1.66* AbsEos-0.00* AbsBaso-0.06
___ 05:50PM BLOOD Glucose-266* UreaN-26* Creat-1.6* Na-136 
K-4.2 Cl-98 HCO3-18* AnGap-20*
___ 05:50PM BLOOD CRP-180.1*
___ 07:45PM BLOOD ___ pO2-22* pCO2-44 pH-7.32* 
calTCO2-24 Base XS--4
___ 05:50PM BLOOD Lactate-2.4*
___ 07:40PM URINE Color-Straw Appear-Clear Sp ___
___ 07:40PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-1000* Ketone-TR* Bilirub-NEG Urobiln-NEG pH-6.0 
Leuks-SM*
___ 07:40PM URINE RBC-4* WBC-7* Bacteri-FEW* Yeast-NONE 
Epi-1 TransE-<1
___ 07:40PM URINE Mucous-RARE*

PERTINENT INTERVAL LABS
=======================
___ 09:48AM BLOOD ALT-25 AST-29 LD(LDH)-210 AlkPhos-130* 
TotBili-0.8

DISCHARGE LABS
==============
___ 07:17AM BLOOD WBC-9.9 RBC-3.07* Hgb-9.8* Hct-30.4* 
MCV-99* MCH-31.9 MCHC-32.2 RDW-12.3 RDWSD-44.2 Plt ___
___ 07:29AM BLOOD Glucose-109* UreaN-18 Creat-1.2* Na-140 
K-4.0 Cl-100 HCO3-25 AnGap-15
___ 07:29AM BLOOD Calcium-8.8 Phos-4.3 Mg-1.8
___ 07:29AM BLOOD CRP-44.6*

IMAGING
=======
LEFT FOOT XRAY (___)
IMPRESSION: 
 
Re-demonstration of ulceration along the medial distal aspect of 
the great toe
and erosion along the medial base of the distal phalanx of the 
great toe, the
latter of which is perhaps slightly progressed in the interval. 
Findings again
remain concerning for osteomyelitis and MRI with contrast could 
be obtained
for further assessment.

NIAS (___)
---------------
FINDINGS: 
 
On the right side, triphasic Doppler waveforms are seen in the 
right femoral,
popliteal, and dorsalis pedis arteries.  Absent waveform in the 
posterior
tibial artery.
The right ABI was 1.6, artifactually elevated due to 
noncompressible vessels.
 
On the left side, triphasic Doppler waveforms are seen at the 
left femoral and
popliteal arteries.  Monophasic waveforms are seen in the 
posterior tibial and
dorsalis pedis arteries.
The left ABI could not be calculated
 
Pulse volume recordings showed decreased amplitudes at the level 
the right
calf, ankle and metatarsal.
 
IMPRESSION: 
 
Significant bilateral tibial arterial insufficiency to the lower 
extremities
at rest, more significant on the right side.

CXR (___)
--------------
IMPRESSION: 
 
Comparison to ___.  No relevant change is noted.  
Alignment of the
sternal wires is unremarkable.  Mild elongation of the 
descending aorta. 
Borderline size of the heart.  No pleural effusions.  No 
pneumonia, no
pulmonary edema.

MRI LEFT FOOT (___)
IMPRESSION:
 
 
1. Nonenhancing stump soft tissue and the plantar fat pad under 
the middle
phalanges, concerning for devitalized tissue.  No evidence of 
drainable
abscess.
2. 4 mm focus of low T1 signal with edema at the most distal 
cortex of the
first metatarsal.  This is nonspecific as there was no 
comparison study and
focus of osteomyelitis cannot be excluded.
3. 2 sinus tracts medial to the head of the first metatarsal, 
status post
amputation at the first MTP with postsurgical changes.
4. Dorsal swelling and diffuse skin edema.

CXR PICC PLACEMENT (___)
IMPRESSION: 
 
New right PICC with tip projecting over the junction of the 
superior vena cava
and right atrium.  No pneumothorax.  Clear lungs.

PATHOLOGY
==========
SURGICAL TISSUE (___)
- Bone with reparative changes, consistent with chronic 
osteomyelitis.
- There is no evidence of acute osteomyelitis. 

SURGICAL TISSUE (___)
1. LEFT GREAT TOE, EXCISION:
- Acute osteomyelitis, focal.
- Bone with reparative changes.
- Skin and subcutis with ulceration and acute inflammation.
- Atherosclerosis, severe.
2. PROXIMAL PHALANX BASE MARGIN, LEFT, EXCISION:
- Bone with reparative changes.
- There is no evidence of acute osteomyelitis.
3. PROXIMAL PHALANX, LEFT, EXCISION:
- Bone with reparative changes.
- There is no evidence of acute osteomyelitis.

MICROBIOLOGY
============
___ 10:00 am TISSUE      PROXIMAL PHALYNX. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI IN 
PAIRS. 
      Reported to and read back by ___ (___) ON 
___ AT
      1:20PM. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Susceptibility testing performed on culture # ___ 
___. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 
__________________________________________________________
___ 7:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 5:38 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 12:34 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 11:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 12:18 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 10:53 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
=============
SUMMARY
=============

___ yo F with hx of DMII, HTN who presented with diabetic foot 
ulcer on her left hallux complicated by osteomyelitis. She 
underwent surgical debridement and partial tissue and bone 
removal on ___. However the infection persisted, and she 
underwent left hallux amputation on ___. She was started 
on IV nafcillin for MSSA infection with plan to continue home 
infusions of nafcillin until at least ___

ACTIVE ISSUES
=============
#Osteomyelitis of left hallux: Due to diabetic ulcer of left 
hallux. Patient underwent partial left hallux amputation on ___ 
by podiatry. She was initially placed on IV Vancomycin, Flagyl, 
and cefepime. Initial surgical cultures came back positive for 
MSSA, so was changed to IV nafcillin. Patient continued to be 
afebrile, but her left foot continued to have erythema, edema, 
pain, and the ulcer was not healing well. There was concern for 
poor arterial blood flow and therefore underwent noninvasive 
arterial studies on bilateral lower extremities. The studies 
showed mild atherosclerotic disease in her left leg and foot, 
and severe atherosclerotic disease in her right leg and foot. 
Vascular surgery was consulted for potential intervention, but 
they felt that no further vascular intervention was warranted 
prior to podiatric surgery. The patient was brought back to the 
OR by podiatry on ___ for total left hallux amputation 
given lack of clinical improvement. Her ___ blood cell count 
continued to down trend. The pathology report showed clean 
margins. However, patient was continuing to have pain, and there 
was increased erythema and swelling around surgical site. An MRI 
of the left foot was done, which showed devitalization of the 
surgical flap, some edema, and a hyperintense focal spot at the 
site of the surgery. There were no signs of abscess or fluid 
collection. Podiatry team felt patient did not need any acute 
surgical intervention and will have close follow-up on 
___. A PICC line was placed in the right arm 
___ with tentative plan to complete a two-week course of IV 
nafcillin on ___. For the wound, podiatry recommends daily 
dressing changes to left foot surgical site: Betadine moistened 
gauze, 4x4 gauze, and kerlix.

#Cough: During her stay the patient developed cough that was 
nonproductive. It was thought to be due to atelectasis after 
surgery, especially since her rales on exam would clear with 
coughing. A repeat chest x-ray was negative for any acute 
cardiopulmonary processes and on comparison to previous chest 
x-ray during this hospital stay there were no changes. Will 
restart home Lasix at discharge.

#Hypertension: Patient's antihypertensives were held upon 
admission given that her blood pressures were low with systolic 
blood pressures in the ___ likely due to sepsis in the 
setting of her osteomyelitis from her diabetic foot ulcer. After 
her first debridement, patient's blood pressures increase to 
160s-170s so we restarted her losartan and furosemide. However 
her blood pressure dipped back down again to the ___ systolic 
and her creatinine bumped up to 1.8 so we discontinued her 
losartan and furosemide. Her metoprolol was continued with 
holding parameters, and it was held when her systolic blood 
pressure was less than 110. Her ___ resolved, and she became 
hypertensive again, so we restarted her losartan while in the 
hospital and instructed the patient to restart her Lasix upon 
discharge from the hospital.

#Acute Kidney Injury: Her baseline creatinine is 1.0. It bumped 
up to 1.8 in the setting of sepsis, restarting her losartan and 
furosemide, and hypotension. We gave her IV fluids and stopped 
her losartan and furosemide. Her creatinine continued to improve 
with these measures and upon discharge it was 1.1-1.2, which is 
around her baseline.

CHRONIC ISSUES
==============
#Diabetes Mellitus Type 2: Upon admission, patient was started 
on 80% of home insulin doses. Her Lantus inpatient dose was 32 
units, and her Humalog inpatient dose was 12 units 3 times 
daily. Patient's blood sugars were hard to control while she was 
inpatient. Working with the ___ diabetes consult team we 
adjusted her insulin doses as needed. ___ recommended 
discharging the patient on 48 units of Toujeo and 18 units of 
Novolog with meals as well as resuming her Trajenta and 
Jardiance.

#CODE STATUS: Full (presumed)
#CONTACT: ___ (grandson's girlfriend) ___

TRANSITIONAL ISSUES
===================
[ ] Patient is on oxycodone 5 mg Q8H for her foot pain from the 
surgery. She was given enough to get her to her PCP appointment, 
which is ___. Please re-assess pain management.

[ ] Osteomyelitis, infected diabetic foot ulcer: Surgical margin 
from total left hallux amputation on ___ was negative for 
osteomyelitis. Patient to complete a 2 week course of nafcillin 
for ongoing soft tissue infection and will follow up with ID 
prior to completion of antibiotics to ensure resolution. Will be 
discharged on q4 hour nafcillin to be infused via a pump. Once 
finished an antibiotic should also have right arm PICC line 
removed. For the wound, podiatry recommends daily dressing 
changes to left foot surgical site: Betadine moistened gauze, 
4x4 gauze, and kerlix

[ ] Diabetes mellitus type 2: Patient's blood sugars were very 
labile. Given that she came in with a diabetic foot ulcer 
suggesting that her blood sugars are not well-controlled at 
home, she needs close follow-up to optimize her diabetic 
medication regimen. She is being discharged on reduced dose 
Toujeo and regular home Novolog along with her usual Trajenta 
and Jardiance with close follow-up with ___ provider on 
___, ___ at 1 ___. Please reassess patient's need for 
Jardiance given history of recurrent AKIs

[ ] Cough: Patient developed non-productive cough while in 
hospital but afebrile, no leukocytosis, CXR no signs of pleural 
effusion or consolidation. Suspect due to atelectasis in post-op 
period after foot surgery. Will discharge on incentive 
spirometer and restarting home Lasix as outpatient. If not 
improved once back on outpatient Lasix, would consider further 
workup.

[ ] Hypertension: Patient was discharged on her regular home 
medications. While she was an inpatient, she became hypotensive 
when we restarted her on all of her antihypertensives. Please 
follow her blood pressure to ensure that she is on the right 
regimen. If too low, might consider removing furosemide.

[ ] ___: Discharge creatinine 1.2 on ___. Suspect patient will 
have a slight bump in creatinine after restarting losartan on 
___. Patient had weekly labs checked with IV antibiotic 
infusions. If continues to rise, may be due to nafcillin and 
would consider switching antibiotic to cefazolin.

#CODE STATUS: Full (presumed)
#CONTACT: ___ (grandson's girlfriend) ___

>30 minutes spent on complex discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. canagliflozin 100 mg oral DAILY 
2. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina 
3. rOPINIRole 0.5 mg PO QHS restless leg syndrome 
4. TraZODone 50 mg PO QHS:PRN insomnia 
5. Pantoprazole 40 mg PO BID 
6. Gabapentin 400 mg PO QHS:PRN Neuropathic pain 
7. Atorvastatin 80 mg PO QPM 
8. Fluticasone Propionate 110mcg 2 PUFF IH BID 
9. linaGLIPtin 5 mg oral DAILY 
10. Losartan Potassium 25 mg PO DAILY 
11. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO TID:PRN Pain - 
Severe 
12. Lidocaine 5% Patch 1 PTCH TD QPM 
13. Furosemide 20 mg PO DAILY 
14. Metoprolol Succinate XL 150 mg PO DAILY 
15. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
16. Aspirin EC 325 mg PO DAILY 
17. MetronidAZOLE Topical 1 % Gel 1 Appl TP DAILY Rosacea 
18. nystatin 100,000 unit/gram topical DAILY:PRN 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth Every 8 hours for 
foot pain Disp #*60 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line 
RX *bisacodyl 5 mg 2 tablet(s) by mouth Once a day as needed for 
constipation Disp #*60 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth Twice a day 
Disp #*30 Capsule Refills:*0 
4.  Nafcillin 2 g IV Q4H 
RX *nafcillin in dextrose iso-osm 2 gram/100 mL 2 g IV Every 
four hours Disp #*84 Intravenous Bag Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth Once every 8 hours as 
needed for severe foot pain. Disp #*15 Capsule Refills:*0 
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth Twice a day as 
needed for constipation Disp #*30 Tablet Refills:*0 
7.  Novolog 18 Units Breakfast
Novolog 18 Units Lunch
Novolog 18 Units Dinner 
8.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
9.  Aspirin EC 325 mg PO DAILY  
10.  Atorvastatin 80 mg PO QPM  
11.  canagliflozin 100 mg oral DAILY  
12.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
13.  Furosemide 20 mg PO DAILY  
14.  Gabapentin 400 mg PO QHS:PRN Neuropathic pain  
15.  Lidocaine 5% Patch 1 PTCH TD QPM  
16.  linaGLIPtin 5 mg oral DAILY  
17.  Losartan Potassium 25 mg PO DAILY  
18.  Metoprolol Succinate XL 150 mg PO DAILY  
19.  MetronidAZOLE Topical 1 % Gel 1 Appl TP DAILY Rosacea  
20.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina  
21.  nystatin 100,000 unit/gram topical DAILY:PRN  
22.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO TID:PRN Pain 
- Severe  
23.  Pantoprazole 40 mg PO BID  
24.  rOPINIRole 0.5 mg PO QHS restless leg syndrome  
25.  ___ SoloStar U-300 Insulin (insulin glargine) 300 
unit/mL (1.5 mL) subcutaneous QHS 
Inject 48U QHS  
26.  TraZODone 50 mg PO QHS:PRN insomnia  
27.Outpatient Lab Work
ICD-10: E11.621 
DATE: weekly: draw on ___ and ___
LAB TEST: CBC with differential, BUN, Cr, AST, ALT, Total
Bili, ALK PHOS, ESR, CRP
PLEASE FAX RESULTS TO: ATTN: ___ CLINIC - FAX: 
___
28.Rolling Walker
EQUIPMENT: Rolling Walker
DIAGNOSIS: Left hallux amputation
ICD-10: ___ 
PX: Good
___: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Osteomyelitis of left hallux

SECONDARY DIAGNOSES
===================
Hypertension
Type 2 Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you.

WHY WAS I ADMITTED TO THE HOSPITAL?
You had a diabetic foot ulcer on your left toe that was very 
infected and had caused an infection in your bone.

WHAT WAS DONE WHILE I WAS HERE?
Your big left toe was removed because you had a bad bone 
infection. You were treated with antibiotics to fight the 
infection and will need to go home on IV antibiotics.

WHAT DO I NEED TO DO WHEN I LEAVE?
Please continue to take your medications as directed.  You will 
go home with an antibiotic infusion pump and will have a 
visiting nurse come to your house to teach you how to use it.  
You will need to administer antibiotics through the pump every 4 
hours.  We changed your diabetic medication regimen, so please 
follow along as instructed below and keep close track of your 
sugars at home. Check your sugars 4 times a day and log the 
results. Bring the results in with you to your ___ 
appointment on ___ at 1:00 pm so that they can 
adjust your medication regimen appropriately. Please follow-up 
with Dr. ___ team on ___ at 11:00 am. Please 
follow up with Dr. ___ your antibiotic regimen on 
___ at 10:30 am. Please follow-up with Dr. ___ 
in ___ ___ on ___ at 1:00 pm.

Be well,

Your ___ Care Team
 
Followup Instructions:
___